US04450155
A solution of 1-(tert-butyloxycarbonyl)-N-(3-phenylpropyl)-L-prolinamide (2.88 g.) in ethyl acetate-hydrogen chloride (3.9 N, 30 ml.) was stirred at room temperature for one half hour, then concentrated. A solution of the residue (2.80 g.) in ethyl acetate was concentrated, affording N-(3-phenylpropyl)-L-prolinamide hydrochloride as a syrup.

reactant | 1-(tert-butyloxycarbonyl)-N-(3-phenylpropyl)-L-prolinamide | 2.88 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NCCCC2=CC=CC=C2)CCC1 | C19H28N2O3
reactant | ethyl acetate hydrogen chloride | 3.9 N, 30 ml | C(C)(=O)OCC.Cl
product | N-(3-phenylpropyl)-L-prolinamide hydrochloride | Cl.C1(=CC=CC=C1)CCCNC([C@H]1NCCC1)=O | InChI=1S/C14H20N2O.ClH/c17-14(13-9-5-10-15-13)16-11-4-8-12-6-2-1-3-7-12;/h1-3,6-7,13,15H,4-5,8-11H2,(H,16,17);1H/t13-;/m0./s1
